US08975400B2
1-methyl-7-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenethoxy)-2,3-dihydroimid-azo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (50 mg, 0.269 mmol), sodium hydride (21.55 mg, 0.539 mmol) and 2-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol (76 mg, 0.269 mmol) in DMF (1 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.269 mmol, 50 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.539 mmol, 21.55 mg | [H-].[Na+]
reactant | 2-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenyl)ethanol | 0.269 mmol, 76 mg | FC(C=1C=CC(=NC1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-methyl-7-(4-((5-(trifluoromethyl)pyridin-2-yl)oxy)phenethoxy)-2,3-dihydroimid-azo[1,2-c]pyrimidin-5(1H)-one | CN1CCN2C(N=C(C=C21)OCCC2=CC=C(C=C2)OC2=NC=C(C=C2)C(F)(F)F)=O | C21H19F3N4O3
